US08193203B2
tert-Butyl 4-(2-Chloroquinazolin-4-ylamino)piperidine-1-carboxylate (Compound 127).
To a solution of 2,4-dichloroquinazoline (2 g, 10.05 mmol) in THF (50 ml) at 0° C. was added tert-butyl 4-aminopiperidine-1-carboxylate (2.2 g, 11.05 mmol), followed by TEA (2.8 ml, 20.1 mmol) and catalyst DMAP (3 mg). The reaction mixtures was then warmed up to room temperature and stirred for 20 hours. The product was extracted with EtOAc (×2). The organic layers were combined and washed with water, and brine, and dried (MgSO4) and concentrated under vacuum. The product was isolated after silica gel column chromatography using 20% EtOAc and 80% hexane as eluent.

reactant | 2,4-dichloroquinazoline | 10.05 mmol, 2 g | ClC1=NC2=CC=CC=C2C(=N1)Cl | C8H4Cl2N2
reactant | tert-butyl 4-aminopiperidine-1-carboxylate | 11.05 mmol, 2.2 g | NC1CCN(CC1)C(=O)OC(C)(C)C | C10H20N2O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | DMAP | 3 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | tert-Butyl 4-(2-Chloroquinazolin-4-ylamino)piperidine-1-carboxylate | ClC1=NC2=CC=CC=C2C(=N1)NC1CCN(CC1)C(=O)OC(C)(C)C | C18H23ClN4O2
